US04996218
2-Pyrimidinehexanol
A solution of 6-(2-pyrimidinyl)-5-hexynol (3.09 g) in ethanol (100 ml) was added to a pre-hydrogenated suspension of 10% palladium on charcoal (1.05 g) in ethanol (50 ml) and hydrogenated at room temperature and pressure, filtered and evaporated in vacuo. The residual oil was purified by FCC eluting with ether and System C (99:1-85:15) to give the title compound as a pale yellow oil (0.93 g).

reactant | 6-(2-pyrimidinyl)-5-hexynol | 3.09 g | N1=C(N=CC=C1)C#CCCCCO | C10H12N2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.05 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-Pyrimidinehexanol | 0.93 g | N1=C(N=CC=C1)CCCCCCO | C10H16N2O
